US07202318B2
In 80 ml of toluene was dissolved 10.0 g of 4-hydroxy-4-(2,2-dihydroxy-1,1,3,3,3-pentafluoropropyl)cyclohexanone obtained in <7-1>. The solution was heated under reflux. The water formed was removed, leaving a toluene solution of 4-hydroxy-4-(2-oxo-1,1,3,3,3-pentafluoropropyl)cyclohexanone. Under nitrogen and with stirring at room temperature, this solution was added dropwise to a solution of 3.3 g lithium aluminum hydride in 100 ml tetrahydrofuran. The reaction mixture was stirred at room temperature for 24 hours and then cooled to 5° C. The reaction mixture was combined with 100 ml of ethyl acetate and then with 100 ml of 20% hydrochloric acid. The mixture was stirred at room temperature for 3 hours and then extracted with toluene. Through conventional work-up including washing, drying and concentration, 8.0 g (yield 84%) of the target compound was obtained.

reactant | 4-hydroxy-4-(2,2-dihydroxy-1,1,3,3,3-pentafluoropropyl)cyclohexanone | 10.0 g | OC1(CCC(CC1)=O)C(C(C(F)(F)F)(O)O)(F)F | C9H11F5O4
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-4-(2-oxo-1,1,3,3,3-pentafluoropropyl)cyclohexanone | OC1(CCC(CC1)=O)C(C(C(F)(F)F)=O)(F)F | C9H9F5O3
